* NGSPICE file created from idac.ext - technology: sky130A

.subckt n_lk G D B S
X0 D G S B sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=0.5 M=2
.ends

.subckt sky130_fd_pr__res_xhigh_po_0p35_R469US a_n35_n1272# a_n35_840# VSUBS
X0 a_n35_840# a_n35_n1272# VSUBS sky130_fd_pr__res_xhigh_po_0p35 l=8.56
.ends

.subckt p_br1 D B S
X0 D G S B sky130_fd_pr__pfet_01v8_hvt ad=0.72 pd=4.4 as=0.72 ps=4.4 w=1.8 l=0.5
.ends

.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15 M=2
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15 M=2
.ends

.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
X0 VPWR a_27_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.265 pd=2.53 as=0.135 ps=1.27 w=1 l=0.15 M=2
X1 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.149 pd=1.325 as=0.1664 ps=1.8 w=0.64 l=0.15
X2 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.097 ps=0.975 w=0.65 l=0.15 M=2
X3 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt p_lk G D B S
X0 D G S B sky130_fd_pr__pfet_01v8_hvt ad=0.8 pd=4.4 as=1.6 ps=8.8 w=4 l=0.5 M=2
.ends

.subckt p_br2 D B S
X0 D G S B sky130_fd_pr__pfet_01v8_hvt ad=0.36 pd=2.2 as=0.72 ps=4.4 w=1.8 l=0.5 M=3
.ends

.subckt idac
Xn_lk_0 n_lk_0/G p_lk_1/S p_lk_1/D p_lk_1/D n_lk
Xn_lk_1 p_lk_0/G p_lk_1/S p_lk_1/D p_lk_1/D n_lk
Xsky130_fd_pr__res_xhigh_po_0p35_R469US_0 p_lk_1/D li_3120_n3130# p_lk_1/D sky130_fd_pr__res_xhigh_po_0p35_R469US
Xp_br1_0 p_br1_1/S p_br2_0/S p_br2_0/S p_br1
Xsky130_fd_sc_hd__inv_2_0 p_lk_0/G sky130_fd_sc_hd__inv_2_0/VGND p_lk_1/D sky130_fd_sc_hd__inv_2_0/VPB
+ sky130_fd_sc_hd__inv_2_0/VPWR sky130_fd_sc_hd__inv_2_0/Y sky130_fd_sc_hd__inv_2
Xsky130_fd_sc_hd__buf_2_0 sky130_fd_sc_hd__buf_2_0/A sky130_fd_sc_hd__buf_2_0/VGND
+ p_lk_1/D sky130_fd_sc_hd__inv_2_0/VPB sky130_fd_sc_hd__buf_2_0/VPWR p_lk_0/G sky130_fd_sc_hd__buf_2
Xp_br1_1 p_lk_1/D p_br1_1/S p_br1_1/S p_br1
Xp_lk_0 p_lk_0/G p_lk_1/D p_lk_1/S p_lk_1/S p_lk
Xp_lk_1 p_lk_1/G p_lk_1/D p_lk_1/S p_lk_1/S p_lk
Xp_br2_0 p_br2_1/S p_br2_0/S p_br2_0/S p_br2
Xp_br2_1 p_lk_1/S p_br2_1/S p_br2_1/S p_br2
.ends

